US08791119B2
To a solution of 38.4 g (84.3 mmol) of ethyl 1-(2-tert-butoxycarbonylaminoethyl)-5-bromo-4-(3-fluorophenyl)-1H-pyrrole-3-carboxylate in 80 ml of ethanol are added slowly 271 ml (949 mmol) of aqueous 3.5N hydrochloric acid solution. The formation of a white precipitate is rapidly observed and then, after 45 minutes, the medium becomes clear, while the mixture is heated to 70° C., and 3.00 g (31.2 mmol) of paraformaldehyde are added. Heating is continued at 70° C. for 1 hour. After cooling, the reaction medium is poured into a mixture of ice and aqueous 4N sodium hydroxide solution. The product is extracted with dichloromethane, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure, to give a brown oil, which is chromatographed on a column of 330 g of silica gel, eluting with a mixture of 3% methanol in dichloromethane, to give 14.3 g of ethyl 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylate after crystallizing from 50 ml of diisopropyl ether.

reactant | ethyl 1-(2-tert-butoxycarbonylaminoethyl)-5-bromo-4-(3-fluorophenyl)-1H-pyrrole-3-carboxylate | 84.3 mmol, 38.4 g | C(C)(C)(C)OC(=O)NCCN1C=C(C(=C1Br)C1=CC(=CC=C1)F)C(=O)OCC | C20H24BrFN2O4
reactant | hydrochloric acid | 3.5N | Cl | ClH
reactant | paraformaldehyde | 31.2 mmol, 3.00 g | C=O | CH2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylate | 14.3 g | ClC1=C(C(=C2N1CCNC2)C(=O)OCC)C2=CC(=CC=C2)F | C16H16ClFN2O2
